US07932272B2
6-(3-Phenoxy-benzylsulfanyl)-quinoline
To a solution of dithiocarbonic acid O-ethyl ester S-quinolin-6-yl ester described in Preparation Example W-1 (50 mg, 0.201 mmol), toluene-4-sulfonic acid 3-phenoxybenzyl ester (110 mg, 0.313 mmol) and methanol (1 ml) in tetrahydrofuran (5 ml) was added potassium tert-butoxide (135 mg, 1.20 mmol) under nitrogen atmosphere, which was then stirred at room temperature for 24 hours. This reaction solution was purified by thin layer silica gel chromatography (hexane:ethyl acetate=1:1), and the title compound (39 mg, 0.114 mmol, 57%) was obtained as a yellow oil.

reactant | dithiocarbonic acid O-ethyl ester S-quinolin-6-yl ester | N1=CC=CC2=CC(=CC=C12)SC(OCC)=S | C12H11NOS2
reactant | toluene-4-sulfonic acid 3-phenoxybenzyl ester | 0.313 mmol, 110 mg | O(C1=CC=CC=C1)C=1C=C(COS(=O)(=O)C2=CC=C(C=C2)C)C=CC1 | C20H18O4S
reactant | methanol | 1 ml | CO | CH4O
reactant | potassium tert-butoxide | 1.20 mmol, 135 mg | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 6-(3-Phenoxy-benzylsulfanyl)-quinoline | 0.114 mmol, 39 mg, 57% | O(C1=CC=CC=C1)C=1C=C(CSC=2C=C3C=CC=NC3=CC2)C=CC1 | C22H17NOS
